US03975524
1-Thiomorpholino-3-chloro-isoquinoline
A mixture of 19.8 gm (0.1 mol) of 1,3-dichloro-isoquinoline [prepared according to S. Gabriel, Berichte 19, 1655 (1886)], 25.8 gm (0.25 mol) of thiomorpholine and 100 ml of dry dioxane was refluxed for 7 hours. Thereafter, the precipitated thiomorpholine hydrochloride was suction-filtered off, the filtrate was evaporated and water was added to the residue. The reaction product was suction-filtered off, dried and recrystallized from ethyl acetate, yielding 18.4 gm (69.5% of theory) of the desired compound, m.p. 133°C. In analogous manner 1-(1-oxido-thiomorpholino)-3-chloro-isoquinoline, m.p. 167°-168°C (from ethyl acetate), was prepared from 1,3-dichloro-isoquinoline and 1-oxido-thiomorpholine.

reactant | 1,3-dichloro-isoquinoline | 0.1 mol, 19.8 gm | ClC1=NC(=CC2=CC=CC=C12)Cl | C9H5Cl2N
reactant | thiomorpholine | 0.25 mol, 25.8 gm | N1CCSCC1 | C4H9NS
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-Thiomorpholino-3-chloro-isoquinoline | S1CCN(CC1)C1=NC(=CC2=CC=CC=C12)Cl | C13H13ClN2S
